US07425568B2
2-(3-Chlorophenyl)chroman-6-ol was prepared as described for 2-(3-fluorophenyl)chroman-6-ol in Example 9(c) starting from 635 mg of 2-(3-chloro-phenyl)chroman-4,6-diol. 1H NMR (300 MHz, d6-DMSO) δ: 8.79 (s, 1H), 7.48 (d, 1H, J 0.7 Hz), 7.42-7.37 (m, 3H), 6.71-6.49 (m, 3H), 5.04 (m, 1H), 2.91 (m, 1H), 2.65 (m, 1H), 2.12 (m, 1H), 1.93 (m, 1H).

reactant | 2-(3-fluorophenyl)chroman-6-ol | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13FO2
reactant | 2-(3-chloro-phenyl)chroman-4,6-diol | 635 mg | ClC=1C=C(C=CC1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13ClO3
product | 2-(3-Chlorophenyl)chroman-6-ol | ClC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13ClO2
